US07521448B2
Methyl 3-hydroxycyclobutanecarboxylate (671 mg, 5.16 mmol) was dissolved in CH2Cl2 (20 mL). Pyridine (0.63 mL, 7.73 mmol) was then added followed by p-toluenesulfonic anhydride (1.85 g, 5.67 mmol) and the reaction was stirred at rt for 14 h. The reaction was concentrated in vacuo, dissolved in ether, and washed with H2O, 2M HCl, 2M NaHCO3, brine, and dried over MgSO4. The solution was then filtered, and concentrated in vacuo to give methyl 3-{[(4-methylphenyl)sulfonyl]oxy}cyclobutanecarboxylate as a colorless oil, which was taken on crude. 1-(4-Hydroxyphenyl)-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide (0.88 g, 2.56 mmol), 18-crown-6 (1.36 g, 5.13 mmol), and K2CO3 (0.71 g, 5.13 mmol) were dissolved in DMF (26 mL) in a 50 mL round bottom flask. The reaction was heated to 80° C. under N2 atmosphere upon which methyl 3-{[(4-methylphenyl)sulfonyl]oxy}cyclobutanecarboxylate was added drop-wise. After heating at 80° C. for 48 h, the reaction was cooled to rt, concentrated in vacuo, and purified using silica gel chromatography (5% methanol:CH2Cl2). To remove residual p-toluenesulfonic acid and 18-crown-6, the foamy white solid was washed with ethyl acetate. The combined organic washes were then washed with water and dried over MgSO4, filtered, and concentrated in vacuo to provide methyl 3-(4-{5-[(pyridin-3-ylmethylamino)carbonyl]-1H-benzimidazol-1-yl}phenoxy)cyclobutanecarboxylate as an off-white foamy solid (3:1 trans:cis isomers). MS (ES+): m/z 457 (100) [MH+].

reactant | 1-(4-Hydroxyphenyl)-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide | 2.56 mmol, 0.88 g | OC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C20H16N4O2
reactant | 18-crown-6 | 5.13 mmol, 1.36 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | K2CO3 | 5.13 mmol, 0.71 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 3-{[(4-methylphenyl)sulfonyl]oxy}cyclobutanecarboxylate | CC1=CC=C(C=C1)S(=O)(=O)OC1CC(C1)C(=O)OC | C13H16O5S
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | methyl 3-(4-{5-[(pyridin-3-ylmethylamino)carbonyl]-1H-benzimidazol-1-yl}phenoxy)cyclobutanecarboxylate | N1=CC(=CC=C1)CNC(=O)C1=CC2=C(N(C=N2)C2=CC=C(OC3CC(C3)C(=O)OC)C=C2)C=C1 | C26H24N4O4
